US05397798
A. N-[3-(1H-Pyrazol-1-yl)propyl]-2-nitrobenzamide
The subtitled compound was prepared substantially in accordance with the method detailed in Example 24A using 6.0 g (0.030 mol) of N-(3-aminopropyl)pyrazole, 8.5 g of potassium carbonate and 2.65 g (O.013 mol) of o-nitrobenzoyl chloride with the exception that the final product was purified by crystallization from a cyanomethane/diethyl ether solution, followed by recrystallization from an ethanol/diethyl ether solution, to provide 6.62 g of the desired subtitled intermediate (m.p. 78°-81° C.).

reactant | N-(3-aminopropyl)pyrazole | 0.030 mol, 6.0 g | NCCCN1N=CC=C1 | C6H11N3
reactant | potassium carbonate | 8.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | o-nitrobenzoyl chloride | 2.65 g | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
product | N-[3-(1H-Pyrazol-1-yl)propyl]-2-nitrobenzamide | N1(N=CC=C1)CCCNC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C13H14N4O3
